US07678801B2
3-[2-[(2-aminoethyl)(methyl)amino]-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (50 mg, 0.09 mmol) in THF (5 mL) was added N-methyl-1,2-ethanediamine (0.044 mL, 0.5 mmol). The resultant mixture was stirred at room temperature overnight. The mixture was concentrated under vacuo. Flash chromatography (90% CH2Cl2/7% MeOH/3% NH4OH) then provide the title compound (8.0 mg, 16%). LC-MS (ES) m/z 559 (M+H)+; 1H-NMR(MeOD) δ 2.35 (s, 3H), 2.65 (m, 1H), 2.86 (m, 1H), 2.92 (m, 1H), 3.26 (m, 1H), 3.35 (m, 1H), 3.40 (m, 1H), 3.77 (m, 1H), 6.36 (d, 1H), 7.14 (m, 2H), 7.25 (m, 2H), 7.52 (d, 1H), 7.59 (d, 1H), 7.62 (m, 1H), 7.71 (m, 2H), 7.92 (s, 1H), 8.06 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.09 mmol, 50 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C28H19F3N4O3S
reactant | N-methyl-1,2-ethanediamine | 0.5 mmol, 0.044 mL | CNCCN | C3H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[2-[(2-aminoethyl)(methyl)amino]-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 8.0 mg, 16% | NCCN(C=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)C | C30H25F3N6O2
